US05306849
0.5 g of anhydrous aluminium chloride was added to 15 g of 2,4-dimethylphenyl chloroformate and the mixture was heated at 200° C. for 3 hours at normal pressure. The reaction mixture was cooled and worked up as described in Example 1. 2,4-Dimethylchlorobenzene was obtained in a yield of 20%, which is considerable despite the unfavourable substitution pattern.

reactant | aluminium chloride | 0.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,4-dimethylphenyl chloroformate | 15 g | ClC(=O)OC1=C(C=C(C=C1)C)C | C9H9ClO2
product | 2,4-Dimethylchlorobenzene | yield of 20% | CC1=C(C=CC(=C1)C)Cl | C8H9Cl
